US06297403B1
170 mg (1.60 mmol) of o-xylene were reacted analogously to Example 1 in the presence of 32.1 mg (0.180 mmol) of 3-amino-N-hydroxyphthalimide. After a reaction time of 4 hours and 18 hours, a further 32.1 mg (0.180 mmol) of 3-amino-N-hydroxyphthalimide were added in each case, and, after a total of 30 hours, the reaction solution was extracted with chloroform and examined by NMR spectroscopy. Yield 30% of 2-methylbenzaldehyde and 7% of 2-methylbenzyl alcohol.

reactant | o-xylene | 1.60 mmol, 170 mg | CC=1C=CC=CC1C | C8H10
reactant | 3-amino-N-hydroxyphthalimide | 0.180 mmol, 32.1 mg | NC1=C2C(C(=O)N(C2=O)O)=CC=C1 | C8H6N2O3
reactant | 3-amino-N-hydroxyphthalimide | 0.180 mmol, 32.1 mg | NC1=C2C(C(=O)N(C2=O)O)=CC=C1 | C8H6N2O3
reactant | 2-methylbenzyl alcohol | CC1=C(CO)C=CC=C1 | C8H10O
product | 2-methylbenzaldehyde | Yield 30% | CC1=C(C=O)C=CC=C1 | C8H8O
